US06537994B2
4-[(2S)-3-(2-{4-[2-(4-Cyclohexyl-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol
4-[2-(4-Cyclohexylphenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethylamine (0.37 g, 0.93 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.377 g, 0.93 mmol) according to Procedure G (eluant: 20:1 going to 5:1 chloroform-methanol) to give the title compound (0.317 g, 0.396 mmol).

reactant | 4-[2-(4-Cyclohexylphenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethylamine | 0.93 mmol, 0.37 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(CCN)C=C1 | C26H28N4
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.93 mmol, 0.377 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[(2S)-3-(2-{4-[2-(4-Cyclohexyl-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol | 0.396 mmol, 0.317 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C35H38N4O3
